US06235849B1
Synthesis of N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl)-propylsulfonamide
Into a dry 1 lit. round bottom flask equipped with a magnetic stirrer, condenser and an addition funnel was added 500 ml of dry distilled tetrahydrofuran, 63 g (0.51 moles) of norbornyl amine and 125 ml (0.41 moles) of triethylamine. The reaction mixture was cooled to 0° C. To the mixture was added via the additional funnel 65 g (0.495 moles) of propanesulfonyl chloride and the reaction mixture was stirred overnight. The reaction mixture was filtered to remove the triethylammonium hydrochloride salt and the filtrate was rotovaped to remove tetrahydrofuran, resulting in an solid. The solid was dissolved in diethylether, and the resulting solution was extracted several times with deionized water. After treating with decolorizing carbon and drying over anhydrous sodium sulfate, the solution was filtered and the solvent was removed by rotary evaporation. The solid product was recrystallized from hexane's and dried under reduced pressure to yield 85%, mp 51-52° C. The product was identified by 1H and 13C NMR and IR spectroscopy.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | norbornyl amine | 0.51 moles, 63 g | C12(CCC(CC1)C2)N | C7H13N
reactant | triethylamine | 0.41 moles, 125 ml | C(C)N(CC)CC | C6H15N
reactant | propanesulfonyl chloride | 0.495 moles, 65 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | diethylether | C(C)OCC | C4H10O
product | N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl)-propylsulfonamide | 85% | C12C(CC(C=C1)C2)CNS(=O)(=O)CCC | C11H19NO2S
